US04644004
By working as described in Example 1, but replacing the N-methyl-N-carbobenzoxy-dopamine with an equivalent amount of N-carbobenzoxy-dopamine, 3,4-dinicotinoyl-N-carbobenzoxy-dopamine is obtained (m.p. 86°-90° C., from benzene).

reactant | N-methyl-N-carbobenzoxy-dopamine | CN(CCC1=CC(O)=C(O)C=C1)C(=O)OCC1=CC=CC=C1 | C17H19NO4
reactant | N-carbobenzoxy-dopamine | C(=O)(OCC1=CC=CC=C1)NCCC1=CC(O)=C(O)C=C1 | C16H17NO4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,4-dinicotinoyl-N-carbobenzoxy-dopamine | C(C1=CN=CC=C1)(=O)C1(C=C(CCNC(=O)OCC2=CC=CC=C2)C=CC1(O)C(C1=CN=CC=C1)=O)O | C28H25N3O6
